US05202344
Preparation of Ethyl 2,5-dihydro-4-hydroxy-5-oxo-1-pentyl-1H-pyrrole-3-carboxylate
The title compound was prepared by the general method of Southwick [J. Org. Chem. 21, 1087 (1956)]. Thus to a solution of n-pentylamine (8.04 g, 92.3 mmol) in 50 ml of dry EtOH was added ethyl acrylate (9.24 g, 92.3 mmol) with stirring under nitrogen at room temperature. After 18 h at room temperature, diethyl oxalate (13.5 g, 92.3 mmol) was added followed by a solution of sodium ethoxide in EtOH [made from sodium (2.12 g, 92.3 mmol) in 50 ml of dry EtOH]. The reaction mixture was then heated under reflux for 1 hour. To the resulting suspension was added 150 ml H2O and the reaction mixture was then concentrated under a stream of nitrogen to remove the EtOH. The white solid was then dissolved in 200 ml H2O and the solution was acidified with concentrated aqueous HCl (8.9 ml of a 10.4N solution). The resulting crystals were filtered, washed with water and dried to give the title compound (15.9 g, 71.4%) as colorless plates: mp 122°-123° C. Anal calcd for C12H19NO4 : C, 59.74; H, 7.94; N, 5.80. Found: C, 59.46; H, 7.87; N, 5.83.

reactant | n-pentylamine | 92.3 mmol, 8.04 g | C(CCCC)N | C5H13N
reactant | ethyl acrylate | 92.3 mmol, 9.24 g | C(C=C)(=O)OCC | C5H8O2
reactant | diethyl oxalate | 92.3 mmol, 13.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | EtOH | 50 ml | CCO | C2H6O
reactant | EtOH | 92.3 mmol, 50 ml, 2.12 g | CCO | C2H6O
solvent | H2O | 150 ml | O | H2O
product | Ethyl 2,5-dihydro-4-hydroxy-5-oxo-1-pentyl-1H-pyrrole-3-carboxylate | 15.9 g, 71.4% | OC1=C(CN(C1=O)CCCCC)C(=O)OCC | C12H19NO4
